US04947881
For example, to prepare 1,1-dichloro-2,2,3,3,4,4,4-heptafluorobutane, 2,2,3,3,4,4,4-heptafluorobutanol and p-toluenesulfonyl chloride are reacted to form 2,2,3,3,4,4,4-heptafluorobutyl-p-toluenesulfonate. Then, N-methylpyrrolidone, lithium chloride, and the 2,2,3,3,4,4,4-heptafluorobutyl-p-toluenesulfonate are reacted to form 1-chloro-2,2,3,3,4,4,4-heptafluorobutane. Finally, chlorine and the 1-chloro-2,2,3,3,4,4,4-heptafluorobutane are reacted to form the 1,1-dichloro-2,2,3,3,4,4,4-heptafluorobutane.

reactant | chlorine | ClCl | Cl2
reactant | 1-chloro-2,2,3,3,4,4,4-heptafluorobutane | ClCC(C(C(F)(F)F)(F)F)(F)F | C4H2ClF7
product | 1,1-dichloro-2,2,3,3,4,4,4-heptafluorobutane | ClC(C(C(C(F)(F)F)(F)F)(F)F)Cl | C4HCl2F7
